US07608621B2
N-{[2-Cyclohexyl-6-(1,1-dimethylethyl)-5-hydroxy-3-oxo-2,3-dihydro-4-pyridazinyl]carbonyl}glycine
Ethyl-2-(cyclohexylhydrazono)-3,3-dimethylbutanoate. To a solution of trimethylpyruvic acid (0.6 g, 2.77 mmol) in MTBE (4.0 ml) was added DBU (0.58 ml, 3.85 mmol) followed by bromoethane (0.5 ml, 6.70 mmol) at room temperature. The reaction was heated in the microwave at 120° C. for 20 minutes. The reaction was cooled and 10% NaHCO3 (aq) added. The layers were separated and the organic layer was washed again with 10% NaHCO3 (aq). The aqueous layer backextracted with Et2O several times. The combined organic layers were washed with Brine, dried (MgSO4), filtered and concentrated. The resulting oil was redissolved in Ethanol (5.0 mL) and cyclohexylhydrazine hydrochloride (0.500 g, 3.32 mmol) and DBU (0.500 ml, 3.32 mmol) were added. The reaction was heated in the microwave at 150° C. for 25 minutes. The reaction was cooled to room temperature and 1N HCl added. The solution was diluted with H2O and EtOAc and the layers separated. The aqueous layer was backextracted with EtOAc several times. The combined organic layers were washed with Brine, dried (MgSO4), filtered and concentrated. The product was purified by column chromatography (SiO2, 5-15% EtOAc/Hexanes) to give the title compound as a colorless oil (0.403 g, 57%). 1H NMR (400 MHz, DMSO-d6) d ppm 9.32 (d, J=4.80 Hz, 1H) 4.20 (q, J=7.07 Hz, 2H) 3.08-3.26 (m, 1H) 1.79-1.94 (m, 2H) 1.48-1.74 (m, 3H) 1.26 (t, J=7.07 Hz, 3H) 1.22-1.37 (m, 5H) 1.15 (s, 9H).

reactant | Ethyl-2-(cyclohexylhydrazono)-3,3-dimethylbutanoate | C(C)OC(C(C(C)(C)C)=NNC1CCCCC1)=O | C14H26N2O2
reactant | trimethylpyruvic acid | 2.77 mmol, 0.6 g | CC(C(C(=O)O)=O)(C)C | C6H10O3
reactant | DBU | 3.85 mmol, 0.58 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | bromoethane | 6.70 mmol, 0.5 ml | BrCC | C2H5Br
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | cyclohexylhydrazine hydrochloride | 3.32 mmol, 0.500 g | Cl.C1(CCCCC1)NN
reactant | DBU | 3.32 mmol, 0.500 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 1N | Cl | ClH
reactant | MTBE | 4.0 ml | CC(C)(C)OC | C5H12O
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{[2-Cyclohexyl-6-(1,1-dimethylethyl)-5-hydroxy-3-oxo-2,3-dihydro-4-pyridazinyl]carbonyl}glycine | 0.403 g, 57% | C1(CCCCC1)N1N=C(C(=C(C1=O)C(=O)NCC(=O)O)O)C(C)(C)C | C17H25N3O5
